US06495546B1
Under nitrogen, to a solution of N-benzyl-(2,3-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amine (440 mg) and (2S)-1-phenoxy-2,3-epoxypropane (190 mg) in dichloromethane (10 ml) was added ytterbium(III) trifluoromethanesulfonate (157 mg) at room temperature, and the mixture was stirred at the same temperature for 3 hours. The resulting mixture was poured into saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed (hexane-ethyl acetate) over silica gel to afford (2S)-1-[N-benzyl-N-(2,3-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (400 mg).

reactant | N-benzyl-(2,3-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amine | 440 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=C(C(=C2)OC)OC | C20H25NO2
reactant | (2S)-1-phenoxy-2,3-epoxypropane | 190 mg | O(C1=CC=CC=C1)C[C@@H]1CO1 | C9H10O2
reactant | ytterbium(III) trifluoromethanesulfonate | 157 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2S)-1-[N-benzyl-N-(2,3-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 400 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=C(C(=C2)OC)OC)C[C@@H](COC2=CC=CC=C2)O | C29H35NO4
